US07625908B2
3-Methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (6.42 g, 30 mmol) and 4N hydrogen chloride in dioxane (7.55 ml, 30 mmol) were added to a suspension of 4-chloro-5-fluoroquinazoline (5 g, 27.5 mmol; obtained as described in PCT Int. Appl. WO2001094341, AstraZeneca) in acetonitrile (100 ml). The mixture was stirred at 80° C. for 2 hours. After cooling, the precipitate washed with acetonitrile. This precipitate was partitioned between DCM and 5% aqueous sodium bicarbonate and the pH was adjusted to 8. The organic layer washed with brine and dried over MgSO4. Evaporation of the solvents gave 5-fluoro-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine (9.3 g, 94%) as a dark gum which crystallised on standing; NMR spectrum (CDCl3); 2.30 (s, 3H), 2.54 (s, 3H), 6.93 (d, 1H), 7.15-7.08 (m, 2H), 7.22 (m, 1H), 7.56 (d, 1H), 7.63 (s, 1H), 7.71 (m, 2H), 8.27 (s, 1H), 8.37 (d, 1H), 8.71 (s, 1H).

reactant | 3-Methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 30 mmol, 6.42 g | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 30 mmol, 7.55 ml | O1CCOCC1 | C4H8O2
reactant | 4-chloro-5-fluoroquinazoline | 27.5 mmol, 5 g | ClC1=NC=NC2=CC=CC(=C12)F | C8H4ClFN2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-fluoro-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine | 9.3 g, 94% | FC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C21H17FN4O
